US04971982
10 ml of a 1.2M solution of butyllithium in n-hexane were added to a solution of 1.68 ml of diisopropylamine in 50 ml of tetrahydrofuran while stirring at -78° C. under a nitrogen atmosphere. The solution was stirred for a further 15 minutes and a solution of 4-methylpyrimidine in 20 ml of tetrahydrofuran was then added. The solution was allowed to warm to 20° C. and was stirred for 2 hours. The solution was then cooled to -78° C., 2.33 g of ethyl 2-(4-cyanophenoxy)-2-methylpropionate in 30 ml of tetrahydrofuran were added to and the mixture was allowed to warm to 20° C. and was stirred for 16 hours. The mixture was then partitioned between ethyl acetate and water. The organic phase was washed with sodium chloride solution and evaporated. The residue was chromatographed on silica gel using ethyl acetate for the elution to give 0.69 g of 4-[2-hydroxy-1,1-dimethyl-3-(4-pyrimidinyl)-2-propenyloxy]benzonitrile in the form of a yellow solid of melting point 115°-117° C. (from ethyl acetate/n-hexane).

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 1.68 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-methylpyrimidine | CC1=NC=NC=C1 | C5H6N2
reactant | ethyl 2-(4-cyanophenoxy)-2-methylpropionate | 2.33 g | C(#N)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C13H15NO3
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[2-hydroxy-1,1-dimethyl-3-(4-pyrimidinyl)-2-propenyloxy]benzonitrile | 0.69 g | OC(C(OC1=CC=C(C#N)C=C1)(C)C)=CC1=NC=NC=C1 | C16H15N3O2
